US04226880
Pseudomonic acid A (500 mgs) was dissolved in 2,2-dimethoxypropane (20 ml) and ethyl acetate (20 ml) then p-toluene sulphonic acid (few crystals) added. The solution was stirred for 1 hour then washed with brine and dried (MgSO4). After evaporation of the solvent in vacuo, the residue was dissolved in watermethanol (1:1, 20 ml) and potassium bicarbonate (100 mgs, 1 eq) added. The solvents were removed in vacuo and potassium selenocyanate (432 mgs, 3 eq), tert-amyl alcohol-water (9:1, 15 ml) added and the reaction refluxed for 4 days,. After filtering the solution was evaporated to dryness, water (20 ml) added and solution adjusted to pH2 (5 M-HCl) under a layer of ethyl acetate (20 ml). The organic layer was separated and the aqueous layer further extracted with ethyl acetate (3×20 ml). The combined extracts were dried (MgSO4) and evaporated to an oil which was redissolved in 80% acetic acid (10 ml) and stirred at room temperature overnight. The solution was evaporated to dryness and the residual oil chromatographed on silica (10 g) eluting with 0 to 6% methanol-chloroform. Fractions containing pure product (tlc) were combined and evaporated to give pseudomonic acid C (280 mgs, 58%).

reactant | Pseudomonic acid A | 500 mgs | C[C@H]([C@H]1[C@@H](O1)C[C@H]2CO[C@H]([C@@H]([C@@H]2O)O)C/C(=C/C(=O)OCCCCCCCCC(=O)O)/C)[C@H](C)O | C26H44O9
reactant | p-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | potassium bicarbonate | 100 mgs, 1 eq | C([O-])(O)=O.[K+]
reactant | potassium selenocyanate | 432 mgs, 3 eq | [Se-]C#N.[K+]
reactant | tert-amyl alcohol water | 15 ml | C(C)(C)(CC)O.O
solvent | 2,2-dimethoxypropane | 20 ml | COC(C)(C)OC | C5H12O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | pseudomonic acid C | 280 mgs, 58% | C[C@H](/C=C/C[C@H]1CO[C@H]([C@@H]([C@@H]1O)O)C/C(=C/C(=O)OCCCCCCCCC(=O)O)/C)[C@H](C)O | C26H44O8
